US08207167B2
2′,4′-Dichloro-N-(3-formylphenyl)biphenyl-4-sulfonamide
A solution of 2′,4′-dichloro-N-(3-(hydroxymethyl)phenyl)biphenyl-4-sulfonamide (340 mg, 0.83 mmol) in DCM (10 mL) was stirred under argon at room temperature. Dess-Martin reagent (390 mg, 0.92 mmol) was added in one portion and the mixture was stirred for an hour. The suspension was filtered through Celite, rinsing well with DCM. The filtrate was washed with 1 M Na2S2O3 (10 mL) and water (10 mL) and the DCM was dried over MgSO4. The solvent was evaporated and the residue absorbed onto SiO2 and purified by column chromatography (4×16 cm SiO2, 25% acetone/hexane) and the title compound obtained as a yellow waxy solid (280 mg).

reactant | 2′,4′-dichloro-N-(3-(hydroxymethyl)phenyl)biphenyl-4-sulfonamide | 0.83 mmol, 340 mg | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)CO | C19H15Cl2NO3S
reactant | Dess-Martin reagent | 0.92 mmol, 390 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2′,4′-Dichloro-N-(3-formylphenyl)biphenyl-4-sulfonamide | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)C=O | C19H13Cl2NO3S
